US07405210B2
Preparation 41: 2-[2-(4-Methoxyphenyl)-[1,3]dioxolan-2-ylmethyl]isoindole-1,3-dione
2-[2-(4-Methoxyphenyl)-2-oxoethyl]isoindole-1,3-dione (Preparation 37, 6.35 g, 21.5 mmol) was suspended in toluene (50 mL) and ethylene glycol (12 mL) added. p-Toluenesulfonic acid (300 mg, 1.58 mmol) was added and the resulting mixture heated under reflux for 40 h, removing water with a Dean-Stark trap. The reaction mixture was allowed to cool to rt then partitioned between ethyl acetate (200 mL) and saturated aqueous sodium bicarbonate solution (100 mL). The organic layer was washed with brine (50 mL), dried (MgSO4), filtered and concentrated under reduced pressure, to give the title compound as an off-white solid. δH (d6 DMSO): 3.66 (2H, t), 3.72 (3H, s), 3.87 (4H, m), 6.88 (2H, d), 7.32 (2H, d), 7.83 (4H, m).

reactant | 2-[2-(4-Methoxyphenyl)-2-oxoethyl]isoindole-1,3-dione | 21.5 mmol, 6.35 g | COC1=CC=C(C=C1)C(CN1C(C2=CC=CC=C2C1=O)=O)=O | C17H13NO4
reactant | ethylene glycol | 12 mL | C(CO)O | C2H6O2
reactant | p-Toluenesulfonic acid | 1.58 mmol, 300 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[2-(4-Methoxyphenyl)-[1,3]dioxolan-2-ylmethyl]isoindole-1,3-dione | COC1=CC=C(C=C1)C1(OCCO1)CN1C(C2=CC=CC=C2C1=O)=O | C19H17NO5
